Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Bactrim DS / Zoloft / Tetanus / Aspirin / lactose / atorvastatin
 
Attending: ___.
 
Chief Complaint:
Left sided vision loss
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is an ___ old ___ Farsi-speaking woman with a 
history of HTN, HLD, depression, MCI, who presents with sudden 
onset L sided vision loss.

The patient was in her usual state of health this AM and ate 
lunch around ___ with her husband. He states she was normal at 
that time. After lunch around 2 ___ she noted sudden loss of 
vision on her L side. Her husband was in the other room, and she 
came into the room to tell him about this. He immediately called 
her daughter, who said she needed to go to a doctor. She got an 
urgent appointment with Dr. ___ was seen in clinic within 
several hours. Dr. ___ a L homonymous hemianopia, dense 
in the superior quadrant but less dense in the inferior 
quadrant. The patient was dilated. Prior to dilation Dr. ___ 
___ her vision was ___ and ___ on the R side, no vision I 
the L upper quadrant, and hand motion only in the L lower 
quadrant. Dr. ___ the patient to go to the ED for 
possible stroke eval.

After her appointment with Dr. ___ patient started to 
recover vision again, and by the time of evaluation in the ED, 
the patient states that the L side of her vision is back to 
normal. However, she complains of generalized blurring of vision 
after the dilation drops were placed.

On neuro ROS, the pt denies headache, diplopia, dysarthria, 
dysphagia, lightheadedness, vertigo, tinnitus or hearing 
difficulty. Denies difficulties producing or comprehending 
speech.  Denies focal weakness, numbness, parasthesiae. No bowel 
or bladder incontinence or retention. Denies difficulty with 
gait.

On general review of systems, the pt denies recent fever or 
chills.  No night sweats or recent weight loss or gain. Endorses 
recent URI sx. Denies cough, shortness of breath.  Denies chest 
pain or tightness, palpitations.  Denies nausea, vomiting, 
diarrhea, constipation or abdominal pain.

 
Past Medical History:
- Tuberculosis at the age of ___
- Atypical chest pain with a stress test which showed
ischemic electrocardiogram changes, but no perfusion defects
- palpitations, follows with cardiology
- Hypercholesterolemia
- Hypertension
- Depression (on Prozac)
- MCI, followed by Dr. ___
- h/o prior GI bleed on ASA: presented with melena and low Hct, 
revieved 2 units PRBCs and responded weill to this. EGD showed 
ASA induced gastritis so ASA was stopped. However, subsequently 
H pylori returned positive, and she was treated for H pylori. 
ASA was never restarted.
- Status post mammogram in ___ which showed
left breast with multiple calcifications
- Status post hysterectomy in ___

 
Social History:
___
Family History:
sister had stroke in her ___.
 
Physical Exam:
==============
ADMISSION EXAM
==============
Vitals: 98.6 56 171/60 20 100% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM
Neck: Supple

Neurologic:

-Mental Status: Alert, oriented to age, month. Follows simple 
commands. Translation from Farsi was provided by the daughter. 
Per daughter able to describe the stroke card accurately. Able 
to name high frequency objects on the Stroke card in ___, 
culturally appropriate. No dysarthria. Daughter states her 
language is at baseline.

-Cranial Nerves:
I: Olfaction not tested.
II: s/p eye dilation in eye clinic 8 mm and non reactive 
bilaterally. Initially with L visual neglect to finger counting, 
after NCHCT and CTA with improvement and no L visual neglect.
III, IV, VI: EOMI without nystagmus. No diplopia or skew 
deviation.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing grossly intact
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis 
noted.
  Delt Bic Tri WrE FFl FE IP Quad Ham TA Gastroc 
L  5    ___   ___  5   5    5  5    
R  5    ___   ___  5   5    5  5     

-Sensory: No deficits to light touch, no extinguishing to DSS

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    3    3   2
R  2  2    3    3   2
Plantar response was flexor bilaterally.

-Coordination: No dysmetria on FNF or HKS bilaterally. No 
rebound bilaterally.

-Gait: deferred

==============
DISCHARGE EXAM
==============
Awake & alert. ___ intact. CN: II-XII intact. Normal 
strength. FNF/RAM intact. DTRs symmetrical. Sensations intact. 
CTA.

 
Pertinent Results:
====
LABS
====
___ 04:45PM BLOOD WBC-7.1 RBC-4.55 Hgb-13.2 Hct-42.7 MCV-94 
MCH-29.0 MCHC-30.9* RDW-13.2 RDWSD-45.2 Plt ___
___ 06:28PM BLOOD WBC-7.0 RBC-4.49 Hgb-13.1 Hct-42.0 MCV-94 
MCH-29.2 MCHC-31.2* RDW-13.2 RDWSD-45.3 Plt ___
___ 04:45AM BLOOD WBC-6.4 RBC-4.24 Hgb-12.4 Hct-39.1 MCV-92 
MCH-29.2 MCHC-31.7* RDW-13.3 RDWSD-45.5 Plt ___
___ 04:40AM BLOOD WBC-5.9 RBC-4.07 Hgb-11.8 Hct-38.0 MCV-93 
MCH-29.0 MCHC-31.1* RDW-13.2 RDWSD-45.4 Plt ___
___ 04:45PM BLOOD Neuts-49.8 ___ Monos-11.2 Eos-2.4 
Baso-0.4 Im ___ AbsNeut-3.54 AbsLymp-2.55 AbsMono-0.80 
AbsEos-0.17 AbsBaso-0.03
___ 06:28PM BLOOD Neuts-48.6 ___ Monos-10.8 Eos-2.7 
Baso-0.4 Im ___ AbsNeut-3.38 AbsLymp-2.60 AbsMono-0.75 
AbsEos-0.19 AbsBaso-0.03
___ 04:45PM BLOOD Plt ___
___ 06:28PM BLOOD ___ PTT-28.1 ___
___ 06:28PM BLOOD Plt ___
___ 04:45AM BLOOD Plt ___
___ 04:40AM BLOOD Plt ___
___ 04:45PM BLOOD UreaN-15 Creat-0.7
___ 06:28PM BLOOD UreaN-16
___ 06:28PM BLOOD Creat-0.8
___ 04:45AM BLOOD Glucose-88 UreaN-12 Creat-0.7 Na-140 
K-4.6 Cl-101 HCO3-33* AnGap-11
___ 04:40AM BLOOD Glucose-85 UreaN-12 Creat-0.6 Na-141 
K-3.9 Cl-105 HCO3-29 AnGap-11
___ 06:28PM BLOOD ALT-25 AST-36 AlkPhos-56 TotBili-0.3
___ 04:45AM BLOOD ALT-20 AST-28 LD(LDH)-220 CK(CPK)-89 
AlkPhos-45 TotBili-0.5
___ 06:28PM BLOOD cTropnT-<0.01
___ 06:28PM BLOOD Albumin-4.4
___ 04:45AM BLOOD Albumin-3.9 Cholest-250*
___ 04:40AM BLOOD Calcium-8.9 Phos-2.9 Mg-1.8
___ 04:45AM BLOOD %HbA1c-5.3 eAG-105
___ 04:45AM BLOOD Triglyc-100 HDL-69 CHOL/HD-3.6 
LDLcalc-161* LDLmeas-177*
___ 04:45AM BLOOD TSH-2.1
___ 04:45PM BLOOD CRP-1.5
___ 06:28PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 06:35PM BLOOD Glucose-90 Na-142 K-4.1 Cl-96 calHCO3-36*

___ 12:19AM URINE Color-Straw Appear-Hazy Sp ___
___ 12:19AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-MOD
___ 12:19AM URINE RBC-4* WBC-3 Bacteri-FEW Yeast-NONE Epi-1
___ 12:19AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

=======
IMAGING
=======
NCHCT ___: 
1. No acute intracranial process. 
2. Hypodensities in the left occipital lobe may represent a 
subacute or chronic infarction.  No prior available for 
comparison.

CTA HEAD AND NECK ___:
1. A 0.3 cm inferiorly oriented aneurysm in the proximal right 
A2 anterior 
cerebral artery. 
2. No evidence for stenosis, occlusion or vascular malformation. 

3. Enlargement of the main pulmonary artery, which can be seen 
with pulmonary artery hypertension. 
  
RECOMMENDATION(S): There is a multi nodular thyroid gland with 
no dominant nodule identified which meets criteria for imaging 
follow-up according to the ___ College of Radiology 
guidelines. 
 
NCHCT ___: 
1. No evidence for large acute territorial infarct on 
noncontrast head CT. 
2. Unchanged appearance of left occipital hypodensity, likely 
representing 
subacute to chronic infarct. 

CXR ___: 
Chronic scarring, volume loss and pleural thickening in the left 
lung 
partially imaged on recent CTA neck and stable since ___. No 
acute pneumonia. 

ECHO ___: 
No ASD or LV thrombus seen. Normal global and regional 
biventricular systolic function. Mild to moderate mitral 
regurgitation. Moderate pulmonary hypertension. Compared with 
the report of the prior study (images unavailable for review) of 
___, mitral regurgitation is more prominent and there is 
pulmonary hypertension.  

 
Brief Hospital Course:
Mrs. ___ is an ___ F with a history of HTN, HLD, MCI, and 
depression. She initially presented with a chief complaint of 
acute onset of L homonymous hemianopsia as diagnosed by her 
neuro-ophthalmologist in clinic. Code stroke called and she had 
an NIHSS of 1 for L visual neglect. Her symptoms improved to 
normal while in the ED. She was admitted for stroke work up due 
to concern for a small infarct in the occipital lobe. 

Hospital course by system: 

NEURO: Presented with transiesnt LT homonymus hemianopsia as 
documented above. She was imaged with serial NCHCTs as MRI head 
was poorly tolerated due to claustrophobia. She appears to have 
a chronic LT PCA infarct which is not consistent with her 
clinical presentation. We believe the etiology of her 
presentation is likely a RT PCA stroke or TIA. We have assessed 
her stroke risk factors: fasting lipid panel Chol 250/LDL 161, 
HBA1c 5.3, TSH 2.1. Started Plavix in the setting of previous GI 
bleed as discussed with PCPs office. She does have an extensive 
history of myopathy with statins (tried Lovastatin, Simvastatin, 
brand name ___, and most recently pravastatin 20mg which 
caused diarrhea). After discussion with her family we have 
started low dose rosuvastatin. We are recommending an open MRI 
for better characterization of her pathology. 

CV: She has a known history of palpitations currently on 
atenolol 75mg. She has documented holter monitoring in the past 
w/o any clear evidence of arrhythmias. We have monitored on 
telemetry without alarms. Cardiac enzymes trended and negative. 
She had a TTE with no evidence of clot or ASD.  We are 
recommending outpatient cardiac monitoring with ___ of 
Hearts. 

GI: Has a history of prior GI bleed with melena requiring 2 
units PRBC in ___. Presumed gastritis due to ASA use. However 
she had a documented H pylori infection which was treated. 
Discussed with PCPs NP who noted no clear documented 
contraindication for antiplatelet agent. She was started on 
Plavix ___.

TOX/METAB: Checked LFTs which were WNL. Urine and serum tox 
screens negative

ID: Initial UA with bacteriuria which was asymptomatic. CXR with 
no acute findings (see imaging section for full report).

===================
TRANSITIONAL ISSUES 
===================
1. Consider open MRI.
2. Started on Plavix and low dose rosuvastatin.

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed – () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No  
4. LDL documented? (x) Yes (LDL = 161) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL >100, reason not given: ]  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Boniva (ibandronate) 150 mg oral once per month 
2. Citalopram 10 mg PO DAILY 
3. Pravastatin 20 mg PO QPM 
4. Atenolol 75 mg PO DAILY 

 
Discharge Medications:
1. Citalopram 10 mg PO DAILY 
2. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3
3. Boniva (ibandronate) 150 mg oral once per month 
4. Rosuvastatin Calcium 5 mg PO QPM 
this will need to be increased as an outpatient by your PCP 
___ *rosuvastatin [Crestor] 5 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*3
5. Atenolol 75 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Transient left visual field loss
Transient ischemic attack

Secondary: 
Hypercholesterolemia
Mild cognitive impairment
Palpitations

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,
  
___ were hospitalized due to symptoms of  transient left visual 
field loss concerning for an ACUTE ISCHEMIC STROKE, a condition 
where a blood vessel providing oxygen and nutrients to the brain 
is blocked by a clot. However, we have imaged ___ with serial 
head CTs and found no evidence of an acute stroke. The MRI is a 
better method to see these but it was not well tolerated due to 
claustrophobia. We recommend an outpatient open MRI to follow. 

We have also performed an echocardiogram which showed no 
evidence of clot or abnormal communication between your heart 
chambers. ___ will need outpatient cardiac monitor with ___ 
___ Hearts. 
 
Stroke can have many different causes, so we assessed ___ for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are: high cholesterol. We are 
changing your medications as follows: adding Plavix to decrease 
your stroke risk, and adding Rosuvastatin to decrease your 
cholesterol.

Instructions:  
Please take your other medications as prescribed.  
Please followup with your primary care physician as listed 
below.  
If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- sudden partial or complete loss of vision  
- sudden loss of the ability to speak words from your mouth  
- sudden loss of the ability to understand others speaking to 
___  
- sudden weakness of one side of the body  
- sudden drooping of one side of the face  
- sudden loss of sensation of one side of the body  

 
Followup Instructions:
___